US08426411B2
A round bottom flask was charged with ethyl 2-methyl-4-oxocyclopentanecarboxylate (10.0 g, 58.8 mmol) and DCE (180 mL). The solution was cooled to about 0° C. and AcOH (5.7 mL, 100 mmol) and dibenzylamine (11.3 mL, 58.8 mmol) were added dropwise, resulting in formation of a thick suspension. The reaction mixture was warmed to about 10° C. and sodium triacetoxyborohydride (21.2 g, 100 mmol) was added portionwise and the reaction mixture was stirred at ambient temperature for about 20 h. The reaction mixture was slowly poured into stirred saturated aqueous NaHCO3 (300 mL) and was stirred for about 20 min. The layers were separated and the aqueous phase was extracted with DCM (3×100 mL). The combined organic extracts were washed with brine (2×100 mL), dried over anhydrous Na2SO4, and concd under reduced pressure. The crude yellow oil was purified via flash column chromatography eluting with a gradient of 0-30% EtOAc in heptane to give ethyl 4-(dibenzylamino)-2-methylcyclopentanecarboxylate (15.5 g, 75%) as a colorless oil: 1H NMR (pyridine-d5) δ 7.53 (dd, J=0.9, 7.9 Hz, 4H), 7.43-7.35 (m, 4H), 7.33-7.25 (m, 2H), 4.22-4.06 (m, 2H), 3.79 (d, J=14.2 Hz, 2H), 3.70 (d, J=14.2 Hz, 2H), 3.34-3.22 (m, 1H), 2.76 (dd, J=7.9, 16.6 Hz, 1H), 2.25-2.13 (m, 1H), 2.09-1.94 (m, 2H), 1.88-1.79 (m, 1H), 1.52 (dd, J=10.5, 22.5 Hz, 1H), 1.16 (t, J=7.1 Hz, 3H), 0.98 (d, J=7.0 Hz, 3H).

reactant | ethyl 2-methyl-4-oxocyclopentanecarboxylate | 58.8 mmol, 10.0 g | CC1C(CC(C1)=O)C(=O)OCC | C9H14O3
reactant | AcOH | 100 mmol, 5.7 mL | CC(=O)O | C2H4O2
reactant | dibenzylamine | 58.8 mmol, 11.3 mL | C(C1=CC=CC=C1)NCC1=CC=CC=C1 | C14H15N
reactant | sodium triacetoxyborohydride | 100 mmol, 21.2 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | NaHCO3 | 300 mL | C(=O)(O)[O-].[Na+]
solvent | DCE | 180 mL | ClCCCl | C2H4Cl2
product | ethyl 4-(dibenzylamino)-2-methylcyclopentanecarboxylate | 15.5 g, 75% | C(C1=CC=CC=C1)N(C1CC(C(C1)C(=O)OCC)C)CC1=CC=CC=C1 | C23H29NO2
